US06452014B1
To a solution of 2-(2-bromothiophen-5-yl)-5,6-dichlorobenzimidazole (100 mg, 0.287 mmol) in tetrahydrofuran (6 mL) was added sodium hydryde (60% oil dispersion; 14 mg, 0.35 mmol) at 0° C. under nitrogen atmosphere. After cooling to −78° C., n-butyllithium (1.6 mol/L in hexane; 0.36 mL, 0.57 mmol), dimethylformamide (0.085 mL, 1.1 mmol) were added, and the mixture was stirred for 10 min. Water was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and brine and dried on anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (19:1 to 9:1 chloroform/acetonitrle) to afford 2-(2-formylthiophen-5-yl)-5,6-dichlorobenzimidazole (36 mg, 42%).

reactant | 2-(2-bromothiophen-5-yl)-5,6-dichlorobenzimidazole | 0.287 mmol, 100 mg | BrC=1SC(=CC1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C11H5BrCl2N2S
reactant | sodium | [Na] | Na
reactant | n-butyllithium | 0.57 mmol, 1.6 mol/L, 0.36 mL | C(CCC)[Li]
reactant | dimethylformamide | 1.1 mmol, 0.085 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-(2-formylthiophen-5-yl)-5,6-dichlorobenzimidazole | 36 mg, 42% | C(=O)C=1SC(=CC1)C=1NC2=C(N1)C=C(C(=C2)Cl)Cl | C12H6Cl2N2OS
